US05185351
The 4-amino product was fluorinated using the procedure of K. L. Kirk and L. J. Cohen, JACS, 95 (14), 4619 (1973). Fluoroboric acid (48%, 150 mL) was added to 2-n-butyl-1-{(2-chlorophenyl)methyl}-4-amino-5-carboethoxyimidazole (10.75 g, 0.032 mol) in a quartz flask. The resulting solid mass was sonicated and stirred vigorously to form a suspension. This suspension was cooled to 0° C. and then sodium nitrite (2.80 g, 0.0406 mol) in 5 mL of water was added slowly. The ice bath was removed and then the reaction mixture was irradiated for 20 hours with a 450-watt mercury vapor lamp placed in a quartz immersion well, cooled by circulating 1 water. The reaction mixture was cooled to -20° C. and the pH was adjusted to 6.4 with 50% aqueous sodium hydroxide. The product was extracted into ethyl acetate (3x) and the combined extracts were washed with water and saturated sodium chloride solution. The organic extract was dried with anhydrous sodium sulfate and concentrated to give 8.43 g of a crude product, which was chromatographed on silica gel eluting with chloroform to give 4.31 g of 2-n-butyl-1-{(2-chlorophenyl)methyl}-4-fluoro-5-carboethoxyimidazole.

reactant | Fluoroboric acid | 150 mL | F[B-](F)(F)F.[H+]
reactant | 2-n-butyl-1-{(2-chlorophenyl)methyl}-4-amino-5-carboethoxyimidazole | 0.032 mol, 10.75 g | C(CCC)C=1N(C(=C(N1)N)C(=O)OCC)CC1=C(C=CC=C1)Cl | C17H22ClN3O2
reactant | sodium nitrite | 0.0406 mol, 2.80 g | N(=O)[O-].[Na+]
solvent | water | 5 mL | O | H2O
product | 2-n-butyl-1-{(2-chlorophenyl)methyl}-4-fluoro-5-carboethoxyimidazole | 4.31 g | C(CCC)C=1N(C(=C(N1)F)C(=O)OCC)CC1=C(C=CC=C1)Cl | C17H20ClFN2O2
